US04028404
α-Bromo-p-tolyl cyclobutyl ketone
Cyclobutyl p-tolyl ketone (30 g) and N-bromosuccinimide (31 g) in carbon tetrachloride (200 ml) were irradiated and heated under reflux with a tungsten lamp for 1.5 hours, and cooled. The mixture was filtered and the filtrate was evaporated. The residue was distilled under reduced pressure and the fraction b.p. 120°-125°/0.015 mm was collected.

reactant | Cyclobutyl p-tolyl ketone | 30 g | C1(=CC=C(C=C1)C(=O)C1CCC1)C | C12H14O
reactant | N-bromosuccinimide | 31 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-Bromo-p-tolyl cyclobutyl ketone | C1(CCC1)C(=O)C1=CC=C(C=C1)CBr | C12H13BrO
